US04426382
4-Amino-2-[4-(3,3-dimethylacryloyl)-1-piperazinyl]-6,7-dimethoxyquinazoline (Compound No. 4)
To 20 ml of tetrahydrofuran were added 2.4 g of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline hydrochloride and 2.6 g of triethylamine, after which the mixture was stirred for 20 minutes. There was then added 0.7 g of 3,3-dimethylacryloyl chloride, after which the mixture was stirred at room temperature for 15 hours. The resulting crystals were collected by filtration, washed with water and recrystallized from dimethylformamide to give 1.24 g of the desired product in the form of colourless powdery crystals melting at 278°-280° C. (with decomposition).

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline hydrochloride | 2.4 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1
reactant | 3,3-dimethylacryloyl chloride | 0.7 g | CC(=CC(=O)Cl)C | C5H7ClO
solvent | triethylamine | 2.6 g | C(C)N(CC)CC | C6H15N
product | 4-Amino-2-[4-(3,3-dimethylacryloyl)-1-piperazinyl]-6,7-dimethoxyquinazoline | 1.24 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(C=C(C)C)=O | C19H25N5O3
